US08026257B2
Sodium hydride (0.081 g, 2.020 mmol) (60% in oil) was added slowly to a 0° C. solution of 7-bromo-5-chloro-1H-indole-3-carbonitrile (0.43 g, 1.683 mmol) in THF (10 mL). Bubbling occurred, and the reaction was stirred at 0° C. for 30 min, then 2-(Trimethylsilyl)ethoxymethyl chloride (0.418 mL, 2.356 mmol) was added. After stirring 30 min at ambient temperature, the reaction was quenched with aqueous sodium bicarbonate (10 mL) and extracted with ethyl acetate (2×20 mL). The organic layer was dried with MgSO4 and evaporated, and the residue was purified by chromatography on SiO2 with 5% ethyl acetate/hexanes to give 7-bromo-5-chloro-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-indole-3-carbonitrile (620 mg, 1.607 mmol, 95% yield) as a yellow solid. 1H-NMR (CDCl3, 400 MHz) δ 7.71 (s, 1H), 7.69 (d, J=2.0 Hz, 1H), 7.53 (d, J=2.0 Hz, 1H), 5.82 (s, 2H), 3.52 (app T, J=8.1 Hz, 2H), 0.90 (app t, J=8.2 Hz, 2H), −0.05 (s, 9H). LC/MS (HPLC method 4): tR=4.07 min, 385.4(MH)+.

reactant | Sodium hydride | 2.020 mmol, 0.081 g | [H-].[Na+]
reactant | 7-bromo-5-chloro-1H-indole-3-carbonitrile | 1.683 mmol, 0.43 g | BrC=1C=C(C=C2C(=CNC12)C#N)Cl | C9H4BrClN2
reactant | 2-(Trimethylsilyl)ethoxymethyl chloride | 2.356 mmol, 0.418 mL | C[Si](CCOCCl)(C)C | C6H15ClOSi
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 7-bromo-5-chloro-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-indole-3-carbonitrile | 1.607 mmol, 620 mg, 95% yield | BrC=1C=C(C=C2C(=CN(C12)COCC[Si](C)(C)C)C#N)Cl | C15H18BrClN2OSi
